US04359420
A mixture of 6.08 g (20 mmol) of ethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate, 100 mg of potassium cyanide and 60 ml of ethyleneglycol is stirred at 130° C. for 6 hours and subsequently evaporated. After taking up the residue in chloroform, the solution is washed with water, dried over magnesium sulphate and evaporated. After recrystallisation of the crude product from ethyl acetate, there is obtained 2-hydroxyethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 202°-204° C.

reactant | ethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 20 mmol, 6.08 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)OCC)C)=O)C1 | C15H14FN3O3
reactant | potassium cyanide | 100 mg | [C-]#N.[K+]
reactant | ethyleneglycol | 60 ml | C(CO)O | C2H6O2
product | 2-hydroxyethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)OCCO)C)=O)C1 | C15H14FN3O4
